US05977359
A) 1-tert-Butoxycarbonyl-4-carboxy-4-phenylpiperidine
30 ml of water and 32.9 g of K2Co3 are added to a mixture of 30 g of 4-carboxy-4-phenylpiperidine p-toluenesulfonate and 300 ml of dioxane, the resulting mixture is then heated to 60° C. and 18.2 g of di-tert-butyl dicarbonate are added dropwise. The reaction mixture is then heated at 60° C. for 2 hours and under reflux for 30 minutes. After cooling to RT, it is concentrated under vacuum, the residue is extracted with DCM, the organic phase is washed with a buffer solution of pH 2, acidified to pH 4 by the addition of 2 N HCl, washed with a buffer solution of pH 2, with water and with saturated NaCl solution and dried over MgSO4 and the solvent is evaporated off under vacuum to give 23.7 g of the expected product.

reactant | water | 30 ml | O | H2O
reactant | 4-carboxy-4-phenylpiperidine p-toluenesulfonate | 30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C(=O)(O)C1(CCNCC1)C1=CC=CC=C1
reactant | di-tert-butyl dicarbonate | 18.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 1-tert-Butoxycarbonyl-4-carboxy-4-phenylpiperidine | 23.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(=O)O | C17H23NO4
